US04387060
18 g (0.1 mol) of 2-thioxo-2-chloro-5-methyl-1,3,2-oxazaphospholane were initially introduced into 100 ml of toluene, and a solution of 0.1 mol of sodium ethylate in ethanol was added dropwise at an internal temperature of between 10° and 15° C. The reaction mixture was stirred for a further two hours, washed with water, dried and filtered and the filtrate was distilled. 15 g (83% of theory) of 2-thioxo-2-ethoxy-5-methyl-1,3,2-oxazaphospholane were obtained as a colorless liquid of boiling point 78° C./0.01 mbar and of refractive index nD23 : 1.5041.

reactant | 2-thioxo-2-chloro-5-methyl-1,3,2-oxazaphospholane | 0.1 mol, 18 g | S=P1(OC(CN1)C)Cl | C3H7ClNOPS
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium ethylate | 0.1 mol | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-thioxo-2-ethoxy-5-methyl-1,3,2-oxazaphospholane | 15 g, 83% | S=P1(OC(CN1)C)OCC | C5H12NO2PS
